US06166040
(11) 1-(2-Hydroxy-1-ethyl)-3-methyl-3-methylthio-1,3-dihydro-2H-indol-2-one
Prepared from 3-methyl-3-methylthioindol-2(3H)-one and 2-(2-chloroethoxy)tetrahydro-2H-pyran as described for 3,3-dimethyl-1-(2-hydroxy-1-ethyl)-1,3-dihydro-2H-indol-2-one.

reactant | 3-methyl-3-methylthioindol-2(3H)-one | CC1(C(NC2=CC=CC=C12)=O)SC | C10H11NOS
reactant | 2-(2-chloroethoxy)tetrahydro-2H-pyran | ClCCOC1OCCCC1 | C7H13ClO2
reactant | 3,3-dimethyl-1-(2-hydroxy-1-ethyl)-1,3-dihydro-2H-indol-2-one | CC1(C(N(C2=CC=CC=C12)CCO)=O)C | C12H15NO2
product | 1-(2-Hydroxy-1-ethyl)-3-methyl-3-methylthio-1,3-dihydro-2H-indol-2-one | OCCN1C(C(C2=CC=CC=C12)(SC)C)=O | C12H15NO2S
